US07645754B2
2-Cyano-4-oxopentanoic acid methyl ester (1)
To an ice-cooled (0° C.) solution of ethyl cyanoacetate (6.58 g, 58.1 mmol) in MeOH (20 mL) was slowly added a solution of NaOMe (25% w/v; 58.1 mmol). After 10 min, chloroacetone (5 mL; 62.8 mmol) was slowly added. After 4 h, the solvent was removed. The brown oil was diluted the EtOAc (100 mL) and washed with H2O (100 mL). The organic fraction was dried, filtered, and concentrated to a brown oil (7.79 g; 79%). The oil was a mixture of methyl/ethyl ester products (9/1), and was used without further purification. 1H NMR (200 MHz, CDCl3): δ 1.26 (t, J=7.1 Hz), 2.44 (s, 3H), 3.02 (dd, 1H, J=15.0, 7.0 Hz), 3.42 (dd, 1H, J=15.0, 7.1 Hz), 3.62 (s, 3H), 3.91 (dd, 1H, J=7.2, 7.0 Hz), 4.24 (q, J=7.2 Hz).

reactant | ethyl cyanoacetate | 58.1 mmol, 6.58 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | NaOMe | 58.1 mmol | C[O-].[Na+]
reactant | chloroacetone | 62.8 mmol, 5 mL | ClCC(C)=O | C3H5ClO
solvent | MeOH | 20 mL | CO | CH4O
product | 2-Cyano-4-oxopentanoic acid methyl ester | COC(C(CC(C)=O)C#N)=O | C7H9NO3
